US09056874B2
2-((5-Methyl-7-vinyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
2-((5-Methyl-1-tosyl-7-vinyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (23 mg, 0.049 mmol) was dissolved in EtOH (1 mL) and KOH (27.7 mg, 0.493 mmol) and isoamylamine (0.11 mL, 0.986 mmol) were added and the mixture was stirred at 100° C. in the microwave for 30 minutes. The mixture was then stirred at 100° C. in the microwave for another 15 minutes. The reaction was purified directly by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 313.1 (M+H).

reactant | 2-((5-Methyl-1-tosyl-7-vinyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.049 mmol, 23 mg | CC=1C(=C2C=CN(C2=C(C1)C=C)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1)C=CC(=C2)C#N | C27H22N4O2S
reactant | KOH | 0.493 mmol, 27.7 mg | [OH-].[K+]
reactant | isoamylamine | 0.986 mmol, 0.11 mL | C(CC(C)C)N | C5H13N
solvent | EtOH | 1 mL | CCO | C2H6O
product | 2-((5-Methyl-7-vinyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CNC2=C(C1)C=C)CC1=NC2=C(N1)C=CC(=C2)C#N | C20H16N4
